Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fevers s/p total abdominal hysterectomy, LOA, cystoscopy
 
Major Surgical or Invasive Procedure:
Transvaginal pelvic drain placement and removal.  Placement of 
peripherally inserted central catheter.

 
History of Present Illness:
___ yo POD ___ s/p TLH converted to TAH who presents with 
post-operative fever. Patient had an uneventful hospital post-op 
course and was discharged home on hospital day 2. She did well 
at home tolerating a regular diet, voiding and
being relatively active. 2 days ago she started to develop low 
grade fevers that resovlved with motrin. Today, she developed a 
fever with of 101 with chills, myalgias and thus presented for 
evaluation. She denies dysuria, calf pain, tenderness, SOB, 
productive cough, purulent discharge, abdominal pain besides her 
post-operative pain which has been steadily improving. She 
denies diarrhea, nausea, vomiting. She has had (+) flatus and 
BMs.

 
Past Medical History:
PAST MED HISTORY:
Duodenal ulcer diagnosed approximately ___
years ago.
OB/GYN HISTORY:  Menarche at ___.  She is sexually active.  
Domestic violence screen negative.  She has had one pregnancy, 
which ended a first trimester termination without complications. 
 She denies any history of abnormal Pap smears or sexually 
transmitted infections.
PAST SURG HISTORY: Total abdominal hysterectomy, ___

 
Social History:
___
Family History:
She has an aunt, mother and paternal relatives with breast 
cancer.  She has a sister with cervical cancer, grandmother and 
father with hypertension, grandmother and father with 
cardiovascular disease.  She has a lung, colon, stomach and 
brain cancer in her family as well.

 
Physical Exam:
On ___ by Dr. ___: 99.8  89  106/66  18  99%RA
Gen: Lying in stretcher looking comfortable, nontoxic. 
CV: RRR
Lungs: CTAB
Abd: Soft, appropriately tender to palpation, no rebound or
guarding, no masses palpated, 1.5cm burn on right abdomen with
white granulation tissue at the base.  No drainage or pustules.
Incision: ___ incision healing well, no erythma,
drainage
Pelvic: BME not done given recent TAH.

 
Pertinent Results:
___ WBC-5.2 RBC-2.68* Hgb-7.8* Hct-23.4* MCV-87 MCH-29.2 
MCHC-33.5 RDW-12.3 Plt ___
___ WBC-9.9 RBC-2.63* Hgb-7.7* Hct-22.6* MCV-86 MCH-29.4 
MCHC-34.2 RDW-12.0 Plt ___
___ WBC-16.7*# RBC-3.23* Hgb-9.5*# Hct-27.6* MCV-86 
MCH-29.4 MCHC-34.4 RDW-12.8 Plt ___
___ Neuts-53.5 ___ Monos-7.5 Eos-6.2* Baso-0.5
___ Neuts-72.9* Lymphs-16.6* Monos-6.8 Eos-3.2 Baso-0.4
___ Neuts-79.6* Lymphs-14.2* Monos-4.1 Eos-1.8 Baso-0.3
___ ___ PTT-24.9 ___
___ ___ PTT-22.1 ___
___ Glucose-96 UreaN-9 Creat-0.8 Na-134 K-3.6 Cl-100 
HCO3-25 AnGap-13
___ Lactate-0.6
___ CT ABD/PELVIS: 1. 6.1 x 4.0 x 4.5 cm thin-walled fluid- 
and air-containing collection with surrounding inflammatory 
change adjacent to the vaginal cuff, concerning for 
postoperative abscess. 
2. Unchanged cystic lesion adjacent to the right aspect of the 
rectum, as 
imaged by MR on ___, possibly representing a 
peritoneal 
inclusion cyst or lymphatic malformation. 
___ Pelvic U/S (unofficial): Drain placement inadequate
 
Brief Hospital Course:
Ms ___ was admitted to the GYN service for treatment of a 
pelvic abscess in the setting of recent surgery (TAH on ___. 
 She was started on IV zosyn and flagyl which she remained on 
for a total of 3 days before being switched to oral flagyl and 
levofloxacin.  On hospital day 2 she had a transvaginal pelvic 
drain placed.  Please see procedure note for full details.  On 
hospital day 3 she was transitioned to oral flagyl and 
levofloxacin.  On day 3 her initial abscess culture grew 
enterococcus bacteria.  Infectious disease was then consulted.  
They recommended treatment with vancomycin and continuing her 
oral flagyl and levofloxacin.  She had a PICC line placed to 
facilitate outpatient access.  On hospital day 4, follow-up 
pelvic u/s of her drain revealed that it was no longer in the 
fluid collection so her drain was removed.  At this point, 
interventional radiology attempted to drain the remaining 
pockets but the patient was unable to tolerate the procedure.  
After discussing the option of general anesthesia for drainage 
versus watching and waiting with follow-up ultrasound, because 
her condition had improved, the decision was made to follow her 
clinically and with U/S rather than drain the remaining pockets. 
 On hospital day 5 her vancomycin trough was low at 9.8 so her 
vancomycin dose was increased from 1000 mg BID to ___ mg BID.  
Her initial WBC count was 16.7 and it decreased to 5.2 with 
zosyn and flagyl.  She also was febrile to 101.4 on admission 
___ @0130) but then became afebrile for the rest of her 
admission.  Otherwise, she was reaching her milestones 
post-operatively.  She was able to tolerate a regular diet, 
ambulate, have BMs and flatus, and control her pain.  She was 
discharged on hospital day 5 on vancomycin, levofloxacin and 
flagyl.  She was also discharged with ___, infectious disease 
follow-up as well as follow-up with Dr. ___.  
 
Medications on Admission:
1. fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
3. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

4. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for fever.  
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
6. silver sulfadiazine 1 % Cream Sig: One (1) Appl Topical DAILY 
(Daily).  
7. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.

 
Discharge Medications:
1. fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
3. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

4. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for fever.  
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
6. silver sulfadiazine 1 % Cream Sig: One (1) Appl Topical DAILY 
(Daily).  
7. levofloxacin 500 mg Tablet Sig: One (1) Tablet PO once a day 
for 14 days.
Disp:*14 Tablet(s)* Refills:*0*
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*30 Capsule(s)* Refills:*1*
9. metronidazole 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
10. Outpatient Lab Work
While on Vancomycin please check weekly CBC w/diff, BUN/CR,
LFTs and Vanco trough (starting ___ and fax results to ___ 
clinic at
___

11. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
13. vancomycin in 0.9% sodium Cl 1.5 gram/150 mL Solution Sig: 
One (1) 150 mL solution Intravenous Q 12H (Every 12 Hours) for 
14 days.
Disp:*28 150 mL solution* Refills:*0*
14. Outpatient Lab Work
Vancomycin trough for ___ before ___ dose of vancomycin.  
Please fax to ID (see Page 1 for number) and follow their 
recommendations

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pelvic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks.  
**if no cervix p LSC hyst, nothing in vagina for 3 months  
* You may eat a regular diet.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
  
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___